US06455725B1
At 0C, a solution of 0.52 g of sodium nitrite in 1 ml of water is added within a period of 30 minutes to a mixture of 1 g of 2-amino-4-fluorobenzoic acid, 15 ml of water and 6.24 ml of concentrated sulfuric acid. The mixture is then stirred for one hour. Following addition of 0.3 g of amidosulfonic acid, 0.7 g of methyl acrylate in 9 ml of isopropanol are added dropwise, and 10 mg of palladium acetylacetonate are added. After 4 hours at 40° C., 30 ml of water are added and the resulting precipitate is filtered off. Drying gives 1.1 g of 4-fluoro-2-(3-methoxy-3-oxo-1-propenyl)-benzoic acid of melting point 151-153° C.

reactant | sodium nitrite | 0.52 g | N(=O)[O-].[Na+]
reactant | 2-amino-4-fluorobenzoic acid | 1 g | NC1=C(C(=O)O)C=CC(=C1)F | C7H6FNO2
reactant | sulfuric acid | 6.24 ml | S(O)(O)(=O)=O | H2O4S
reactant | amidosulfonic acid | 0.3 g | NS(=O)(=O)O | H3NO3S
reactant | methyl acrylate | 0.7 g | C(C=C)(=O)OC | C4H6O2
solvent | water | 1 ml | O | H2O
solvent | isopropanol | 9 ml | C(C)(C)O | C3H8O
catalyst | palladium acetylacetonate | 10 mg | C/C(=C/C(=O)C)/[O-].C/C(=C/C(=O)C)/[O-].[Pd+2]
solvent | water | 30 ml | O | H2O
solvent | water | 15 ml | O | H2O
product | 4-fluoro-2-(3-methoxy-3-oxo-1-propenyl)-benzoic acid | 1.1 g | FC1=CC(=C(C(=O)O)C=C1)C=CC(=O)OC | C11H9FO4
